US07915288B2
n-BiLi (12.3 ml of 1.6 M in hexane, 20 mmol) is added dropwise to a solution of 4-bromo-1-chloro-3-methyl-isoquinoline (4.6 g, 18 mmol) in THF (80 ml) at −78° C. and the mixture is stirred for 40 min. DMF (4.2 ml, 54 mmol) is then added slowly. The cold bath is removed, and stirring is continued for 15 min. The mixture is acidified with 1N—HCl to pH 2 and extracted with ether. The combined extracts are dried over Na2SO4 and concentrated in vacuo. The residue is chromatographed on silica gel to give 3.0 g of 1-chloro-3-methyl-isoquinoline-4-carbaldehyde. 1H NMR (CDCl3) 10.9 (s, 1H), 9.06 (d, 1H), 8.40 (d, 1H), 7.88 (t, 1H), 7.70 (t, 1H), 2.99 (s, 3H).

reactant | 4-bromo-1-chloro-3-methyl-isoquinoline | 18 mmol, 4.6 g | BrC1=C(N=C(C2=CC=CC=C12)Cl)C | C10H7BrClN
reactant | DMF | 54 mmol, 4.2 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 1-chloro-3-methyl-isoquinoline-4-carbaldehyde | 3.0 g | ClC1=NC(=C(C2=CC=CC=C12)C=O)C | C11H8ClNO
